US06730687B1
Ethyl 2-[5-[(2,4-Dioxothiazolidin-5-ylidene)methyl]-2 -methoxyphenyl]acetate
Ethyl 2-methylthio-2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]-2-methoxyphenyl]acetate (6.18 g, 16.8 mmol) and acetic acid (100 mL) were mixed, and zinc powder (46.0 g, 706 mmol) was added under stirring, which was stirred for 24 hours at room temperature. Zinc was collected by filtration. washed with acetic acid, and the filtrate was concentrated. The residue was dissolved into ethyl acetate, washed with water and brine in sequence, then dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized from methanol to obtain 2.71 g (50%) of the title compound as yellow powder.

reactant | Ethyl 2-methylthio-2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]-2-methoxyphenyl]acetate | 16.8 mmol, 6.18 g | CSC(C(=O)OCC)C1=C(C=CC(=C1)C=C1C(NC(S1)=O)=O)OC | C16H17NO5S2
catalyst | zinc | 706 mmol, 46.0 g | [Zn] | Zn
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | Ethyl 2-[5-[(2,4-Dioxothiazolidin-5-ylidene)methyl]-2 -methoxyphenyl]acetate | 2.71 g, 50% | O=C1SC(C(N1)=O)=CC=1C=CC(=C(C1)CC(=O)OCC)OC | C15H15NO5S
